* Schematics Netlist *



L_L1         $N_0001 $N_0002  1  
R_R2         $N_0003 $N_0002  4  
R_R1         $N_0004 $N_0002  1  
L_L2         0 $N_0003  4  
C_C1         0 $N_0001  1  
V_V1         $N_0004 0 64
X_U1         $N_0002 0 Sw_tClose PARAMS: tClose=0.3 ttran=1u Rclosed=0.01
+  Ropen=1Meg
